US09290791B2
KMnO4 was added in three portions according to the following procedure: KMnO4 (1.515 g, 9.59 mmol) was suspended in water (20 mL). 4-bromotoluene was added dropwise while the reaction stirred vigorously at 60° C. The mixture was allowed to reflux overnight with a loosely placed septum. A second portion of KMnO4 (0.773 g, 4.795 mmol) was added and reaction allowed to continue reflux for 8.5 hr. A final portion of KMnO4 was added and the reaction allowed to reflux for an additional 48 hr, until deemed complete by the consumption of KMnO4 and the formation MnO2. The reaction was filtered under vacuum and precipitate was rinsed with hot water. The aqueous solution was extracted with EtOAc and then acidified to pH 2-3 (as indicated by pH paper). The aqueous layer extracted again with 2× equal volume EtOAc. Pooled organic layers from the second extraction were dried over anhydrous Na2SO4 and evaporated to dryness to afford 4-bromobenzoic acid (0.673 g, 3.3 mmol, 41%). 1H-NMR (CD2Cl2, 500 MHz) δ (ppm): 7.63 (d, J=14.1 Hz, 2H); 7.94 (d, J=17.2 Hz, 2H).

reactant | KMnO4 | [O-][Mn](=O)(=O)=O.[K+]
reactant | KMnO4 | 9.59 mmol, 1.515 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | 4-bromotoluene | BrC1=CC=C(C=C1)C | C7H7Br
reactant | KMnO4 | 4.795 mmol, 0.773 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | water | 20 mL | O | H2O
product | 4-bromobenzoic acid | 3.3 mmol, 0.673 g, 41% | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
